US07902238B2
To a stirred solution of (R)-2,2-dimethyl-4-phenylaminomethyl-oxazolidine-3-carboxylic acid tert-butyl ester (730 mg) at r.t. in methanol (20 ml) under an argon atmosphere were added acetaldehyde (0.67 ml), ZnCl2 (1.30 g) and NaBH3CN (0.45 g). The mixture was warmed to 40° C. and stirring at that temperature was continued for 17 h. The mixture was cooled to r.t., directly adsorbed on silica gel and purified by column chromatography (SiO2; gradient:cyclohexane->cyclohexane/EtOAc 4:1) to give (R)-4-[(ethyl-phenyl-amino)-methyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (614 mg, 77%) as colorless viscous oil. MS (ISP): 335.5 ([M+H]+)

reactant | (R)-2,2-dimethyl-4-phenylaminomethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 730 mg | C(C)(C)(C)OC(=O)N1C(OC[C@H]1CNC1=CC=CC=C1)(C)C | C17H26N2O3
reactant | acetaldehyde | 0.67 ml | C(C)=O | C2H4O
reactant | NaBH3CN | 0.45 g | [BH3-]C#N.[Na+]
solvent | methanol | 20 ml | CO | CH4O
catalyst | ZnCl2 | 1.30 g | [Cl-].[Cl-].[Zn+2]
product | (R)-4-[(ethyl-phenyl-amino)-methyl]-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 614 mg, 77% | C(C)(C)(C)OC(=O)N1C(OC[C@H]1CN(C1=CC=CC=C1)CC)(C)C | C19H30N2O3
